US07687503B2
7.5. 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)-phenyl]-3-pyridyl}-1-piperazinecarboxylate
The process is performed according to the procedure described in Example 1 (step 1.3.). Starting with 1.28 g (3.43 mmol) of 2-(ethyloxy)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate, obtained in step 7.4., 1.96 g (10.29 mmol) of 3-(trifluoromethyl)phenylboronic acid, 2.91 g (13.72 mmol) of hydrated potassium phosphate and 0.40 g (0.34 mmol) of tetrakis(triphenylphosphine)palladium, and after chromatography on silica gel, eluting with a mixture 35/65 of ethyl acetate and cyclohexane, 0.98 g of pure product is obtained in the form of an oil that crystallizes at room temperature.

reactant | 2-(ethyloxy)-2-oxoethyl 4-(6-bromo-3-pyridyl)-1-piperazinecarboxylate | 3.43 mmol, 1.28 g | BrC1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)OCC | C14H18BrN3O4
reactant | 3-(trifluoromethyl)phenylboronic acid | 10.29 mmol, 1.96 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | tetrakis(triphenylphosphine)palladium | 0.34 mmol, 0.40 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)-phenyl]-3-pyridyl}-1-piperazinecarboxylate | 0.98 g | FC(C=1C=C(C=CC1)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C21H22F3N3O4
